US07777047B2
To a solution of ethyl 7-amino-4-methyl-1H-indole-2-carboxylate (1.00 g) in pyridine (10 mL) was added 2-chloropyridine-3-sulfonyl chloride (1.99 g) at 0° C., and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated, 10% aqueous citric acid solution was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with 10% aqueous citric acid solution and saturated brine, dried (MgSO4), and concentrated to give ethyl 7-{[(2-chloropyridin-3-yl)sulfonyl]amino}-4-methyl-1H-indole-2-carboxylate (1.32 g) as a crude oil.

reactant | ethyl 7-amino-4-methyl-1H-indole-2-carboxylate | 1.00 g | NC=1C=CC(=C2C=C(NC12)C(=O)OCC)C | C12H14N2O2
reactant | 2-chloropyridine-3-sulfonyl chloride | 1.99 g | ClC1=NC=CC=C1S(=O)(=O)Cl | C5H3Cl2NO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 7-{[(2-chloropyridin-3-yl)sulfonyl]amino}-4-methyl-1H-indole-2-carboxylate | 1.32 g | ClC1=NC=CC=C1S(=O)(=O)NC=1C=CC(=C2C=C(NC12)C(=O)OCC)C | C17H16ClN3O4S
